US06583135B2
Preparation of Benzhydrylidene-(3-benzyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indol-10-yl)amine
A mixture of 3-benzyl-10-bromo-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole (0.71 g, 2.00 mmol), benzophenone imine (0.44 g, 0.40 mL, 2.40 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.037 g, 0.040 mmol), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.075 g, 0.120 mmol), and sodium tert-butoxide (0.269 g, 2.80 mmol) in toluene (20.0 mL) was refluxed for 16 h. After cooling to room temperature, water and ethyl acetate were added, and the pahases separated. The aqueous layer was extracted with ethyl acetate (2×). The combined ethyl acetate solution was dried (MgSO4) and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography (silica gel, 30% EtOAc/hexane, 1% Et3N) to afford a yellow fluffy solid as the title compound (0.855 g, 94%): mp>71° C. (dec.); 1H NMR (300 MHz, CDCl3) δ 7.82-7.80, 7.65, 7.66-7.11, 6.82-6.79, 0.73, 5.95, 3.78, 3.20-3.16, 2.90-2.78; MS (ESI+) m/z 456 (M++H).

reactant | 3-benzyl-10-bromo-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indole | 2.00 mmol, 0.71 g | C(C1=CC=CC=C1)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H19BrN2
reactant | benzophenone imine | 2.40 mmol, 0.40 mL, 0.44 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 2.80 mmol, 0.269 g | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.040 mmol, 0.037 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.120 mmol, 0.075 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzhydrylidene-(3-benzyl-1,2,3,4,5,6-hexahydro-azepino[4,5-b]indol-10-yl)amine | 0.855 g, 94% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=2C3=C(NC2C=CC1)CCN(CC3)CC3=CC=CC=C3 | C32H29N3
